US06277991B1
3-(3-Dimethylaminopropyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one dihydrochloride
3-(3-chloropropyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (0.145 g, 0.30 mmol), prepared using the procedure described in Example 13, was added to a 33% solution of dimethylamine in ethanol. Sodium iodide (0.045 g, 0.3 mmol) was added and the mixture was stirred at room temperature for 24 h. Salts were separated by filtration and the filtrate was evaporated in vacuo. The residue was purified by flash chromatography on silica gel using dichloromethane/ethyl acetate 1:1 containing 2.5% triethylamine as the eluent. The pooled pure fractions were evaporated and the residue dissolved in tetrahydrofuran (5 ml) and the hydrochloride was precipitated by the dropwise addition of a solution of hydrogen chloride in ether in excess. The precipitate was collected by filtration and dried, affording the title compound (148 mg, 93% yield) as a powder.

reactant | 3-(3-chloropropyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 0.30 mmol, 0.145 g | ClCCCN1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2 | C27H30ClN3O
reactant | dimethylamine | CNC | C2H7N
reactant | Sodium iodide | 0.3 mmol, 0.045 g | [I-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-Dimethylaminopropyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one dihydrochloride | 148 mg, 93% yield | Cl.Cl.CN(CCCN1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2)C | InChI=1S/C29H36N4O.2ClH/c1-30(2)18-9-19-32-23-33(26-13-4-3-5-14-26)29(28(32)34)16-20-31(21-17-29)22-25-12-8-11-24-10-6-7-15-27(24)25;;/h3-8,10-15H,9,16-23H2,1-2H3;2*1H
